US04659706
Following the procedure of Example 4, 8-methoxy-3-methyl-6-methylthio-2,3,4,5-tetrahydro-1H-3-benzazepine is converted to 8-methoxy-3-methyl-6-methylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride which is treated with hydrobromic acid to give 8-hydroxy-3-methyl-6-methylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide.

reactant | 8-methoxy-3-methyl-6-methylthio-2,3,4,5-tetrahydro-1H-3-benzazepine | COC=1C=C(C2=C(CCN(CC2)C)C1)SC | C13H19NOS
reactant | 8-methoxy-3-methyl-6-methylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride | Cl.COC=1C=C(C2=C(CCN(CC2)C)C1)S(=O)(=O)C
reactant | hydrobromic acid | Br | BrH
product | 8-hydroxy-3-methyl-6-methylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide | Br.OC=1C=C(C2=C(CCN(CC2)C)C1)S(=O)(=O)C | InChI=1S/C12H17NO3S.BrH/c1-13-5-3-9-7-10(14)8-12(17(2,15)16)11(9)4-6-13;/h7-8,14H,3-6H2,1-2H3;1H
